US07253192B2
B] {2-Methyl-4-[5-(4-trifluoromethoxy-phenyl)-pent-4-ynylsulfanyl]-phenoxy}-acetic acid tert-butyl ester
In analogy to the procedure described in example 1D], (4-acetylsulfanyl-2-methyl-phenoxy)-acetic acid tert-butyl ester (example 4A]) was reacted with methanesulfonic acid 5-(4-trifluoromethoxy-phenyl)-pent-4-ynyl ester (example 1G]) to give the title compound a light yellow oil.

reactant | (4-acetylsulfanyl-2-methyl-phenoxy)-acetic acid tert-butyl ester | C(C)(C)(C)OC(COC1=C(C=C(C=C1)SC(C)=O)C)=O | C15H20O4S
reactant | methanesulfonic acid 5-(4-trifluoromethoxy-phenyl)-pent-4-ynyl ester | FC(OC1=CC=C(C=C1)C#CCCCOS(=O)(=O)C)(F)F | C13H13F3O4S
product | {2-Methyl-4-[5-(4-trifluoromethoxy-phenyl)-pent-4-ynylsulfanyl]-phenoxy}-acetic acid tert-butyl ester | C(C)(C)(C)OC(COC1=C(C=C(C=C1)SCCCC#CC1=CC=C(C=C1)OC(F)(F)F)C)=O | C25H27F3O4S
